US05466701
To a solution of tetramethylethylenediamine (50.3 mL) in THF (800 mL) at -78° C. was added sec-BuLi (308 mL, 1.08M), followed by 4-methoxy-N,N-diethylbenzamide, (62.2 g). The mixture was stirred at -78° C. for 70 minutes, then ethyliodide (26.63 g, 333 mmol) was added over 35 minutes. The reaction mixture was warmed to room temperature and stirred for 1.5 hours. The reaction mixture was quenched with saturated NH4Cl (100 mL). The organic layer was separated, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a kugelrohr distillation at 190°-210° C. under high vacuum to afford 58.1 g of 2-ethyl-4-methoxy-N,N-diethylbenzamide.

reactant | tetramethylethylenediamine | 50.3 mL | CN(CCN(C)C)C | C6H16N2
reactant | sec-BuLi | 1.08M, 308 mL | [Li]C(C)CC
reactant | 4-methoxy-N,N-diethylbenzamide | 62.2 g | COC1=CC=C(C(=O)N(CC)CC)C=C1 | C12H17NO2
reactant | ethyliodide | 333 mmol, 26.63 g | C(C)I | C2H5I
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | 2-ethyl-4-methoxy-N,N-diethylbenzamide | 58.1 g | C(C)C1=C(C(=O)N(CC)CC)C=CC(=C1)OC | C14H21NO2
